Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I have a problem seeing myself...as a freak I tried to commit 
suicide twice, I tried to drown myself and tried to hang 
myself..I suffer from major depression I could have bipolar 
disorder..yesterday was the happiest day of my life..I just 
smiled I had a really bad phase and after years of feeling sad I 
feel really happy."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
The patient is a ___ y/o Asian male, sophomore at ___ 
___ with hx of depression,anxiety and 2 prior suicide 
attempt sent from ___ Counseling for one week of inability 
to sleep, not eating , auditory hallucinations and voices 
telling him he is worthless and has been performing superficial 
cutting of his arms.    
 
The patient reports that he feels "disgusted about my face and 
body I couldn't look myself in the mirror and while I was 
shaving yesterday I was going to cut my face up" He reports that 
several days ago he cut his arms a "it makes me feel alive I've 
tried to replace it with an elastic band. Yesterday was horrible 
day...they said my happiness was a symptom of mental disorder. 
My social life and my romantic life are dead I try to avoid 
people. I tried to reach out to my ex g.___. she broke up with me 
___ years ago. I just wanted to speak with her I told her I was 
suicidal".
 
He said "yesterday I thought about everything bad in my life 
that has happened to me and it hit me in the face. I don't think 
I'm bipolar I was just feeling really sad for a longtime". The 
patient reports that he has not slept since ___ and has not 
eaten since then, he has very low energy and has been feeling 
hopeless with intermittent suicidal ideation, paranoid with 
increased isolation, increased superficial cutting and thoughts 
about cutting his face as he describes himself as a freak" and 
believes that people will think he is a freak if he is 
hospitalized. He said "I was always considered an outcaste I was 
different and I was the most disciplined in my studies...they 
teased me at school".
     
Collateral with outside treater
The patient's therapist ___ at ___ (___), spoke with Dr. ___ 
___, psychiatric resident and reported that she has been 
treating the patient for ___ years for symptoms of depression. 
Initially tried non-pharmacological measures for treating these
symptoms, including meditation, exercise, and distraction.
However, these were not sufficient so she had the patient seen 
at
___ (___). He was seen there in
early ___, when he was started on Sertraline.
 
She reported that 3 weeks ago, the patient had made a suicide 
attempt in which he took several sleeping pills, drank a 
substantial amount of alcohol,and then crawled into a bath tub 
and covered himself with a blanket. His sister found him. He was 
seen at Counseling Services and was seen urgently at ___.  
Inpatient care was not sought because he was not actively 
suicidal when he was seen -- he had suicidal thoughts but denied 
intent or plan. At a recent appointment with his counselor, he 
disclosed a prior suicide attempt in ___ during which 
he attempted to hang himself. This morning, when talking to his 
counselor, he endorsed having suicidal thought all the time, but
noted that he was finding it hard to kill himself. He disclosed 
that he was thinking about how to cut himself in more harmful 
ways. He said he had recently learned that if he cuts himself 
along his arm rather than across it, he is more likely to hit an 
artery and bleed more. After disclosing these thoughts, the
counselor decided to have him brought to the hospital out of 
concern for his safety. The patient was upset about this -- he 
stated angrily that people would see him as a freak.
 
The counselor also mentioned that the ___ NP had recently taken 
him off of sertraline on ___ and placed him on clonazepam 
instead. The patient began to have an elevated mood, saying he 
felt better than he ever had before. On ___, the NP saw him 
and became concerned for his having bipolar disorder; his 
clonazepam dose was reduced. This side of the story will be 
verified separately.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations:none
Current treaters and treatment:Therapist ___ @ 
___ {___}
___ Administrator Coordinator 
___  before 5:30pm ___, after 5;30pm ___ 
___ Psych CNS@ ___ 
___. 
Psychiatrist ___ @ ___ ___  
Medications: Zoloft, Clonazepam
Self-injury: hx of 2 prior suicide attempts one ___, tried 
to hang himself with a rope and ___ /"took pills, drank a 
bottle of gin, put a blanket over my head I tried to drown 
myself in the bath tub" 
Harm to others:denies
Access to weapons: denies access to guns
 
SUBSTANCE ABUSE HISTORY:
Alcohol: denies,
Illicits: denies
Tob: denies
Caffeine: denies

PAST MEDICAL HISTORY:
* PCP in ___
* Hypothyroidism
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
* Mother, with depression, and possible hospitalizations
* Father with depression
* Sister with depression with suicidal ideation
 
Physical Exam:
ADMISSION:
VS: T: 97.8, BP: 97/64, HR: 69, O2 sat: 100% on RA
General: Young male in NAD. Well-nourished, well-developed.
Appears stated age.
 HEENT: Atraumatic.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended.
 Extremities: No edema.
 Skin: Multiple scratches and cuts on left upper extremity
(forearm and upper arm) in various stages of healing. No
purulence. Mild erythema around deeper wounds. All superficial
and not requiring suturing.
Neurological:
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
no tremor. Strength: full power ___ throughout.
- Gait: Steady. Normal stance and posture. No truncal ataxia.
Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview. MOYB intact
  Orientation: oriented to person, time, place, situation
  Memory: intact to recent and past history
  Fund of knowledge: consistent with education. Knows three most
recent presidents
  Calculations: $1.75 = seven quarters
  Abstraction: Intact to "don't cry over spilt milk"
  Speech: normal rate, volume, and tone
  Language: Speaks ___ with moderate accent. No paraphasic
errors, appropriate to conversation.
Mental Status:
 Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed (hospital gown). Multiple wounds
on LUE.
 Behavior: Calm, cooperative, engaged, friendly, pleasant, very
poor eye contact, no psychomotor agitation or retardation
 Mood and Affect: "Really sleepy" / dysphoric, restricted range
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI, no evidence of delusions or
paranoia
 Judgment and Insight: poor/poor

DISCHARGE:
*VS: T 97.3 F, BP 138/83, HR 109, RR 17, SaO2 100% on RA
Neurological:
*station and gait: Less rigid, w/o significant arm rigidity as
noted in previous exam
*tone and strength: Grossly normal tone and strength
Mental Status:
*Appearance: Young, ___ man who is well-groomed and
well-dressed.
*Behavior: Calm, cooperative, slightly anxious, good eye 
contact,
eager to engage in interview
*Mood and Affect: "Much better." / Restricted and improved
*Thought process: Mostly linear and goal directed. Concrete.
*Thought Content: Denies SI/HI/AVH. 
*Judgment and Insight: Limited / Limited
*Speech: Regular rate. Regular tone and prosody.
*Language: ___, fluent, with an accent. No significant
paraphrasic errors
Cognition:
*Attention: Attends to the interview
*Orientation: Fully oriented
*Memory: WNL
*Fund of knowledge: Above average
 
Pertinent Results:
Admission labs (___):
-CBC: WNL
-BMP: WNL
-UA: WNL
-TSH: 8.0
-Free T4: 1.9 
-Urine tox: Negative for benzos, barbituates, opiates, cocaine,
amphetamine, and methadone.
-Serum tox: Negative for aspirin, benzos, barbiturates, ethanol,
TCAs and acetaminophen.
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission. He was also placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted. 

2. PSYCHIATRIC:
#) Mood disorder:
Mr. ___ is a ___ man with past psychiatric history 
of mood disorder, w/ multiple past suicide attempts, who 
presented from his outpatient provider's office with signs 
concerning for a mixed episode and multiple recent suicide 
attempts.  On initial interaction, the patient reported that he 
had long-standing depressed mood and multiple self-depreciating 
thoughts. He noted that since stopping his antidepressant, he 
has demonstrated significant improvement in his mood, decreased 
need for sleep (72 hours), pressured speech, and goal-directed 
behavior (excessive studying). The patient also has attempted 
suicide twice before his presentation and was making provocative 
statements about cutting himself to his therapist. 
Diagnostically, patient's initial presentation was concerning 
for BPAD w/ psychotic features. Patient's social disengagement, 
concrete thought process, and symptoms of decompensated mood 
disorder, are suggestive of early onset of primary psychotic 
disorder, like schizoaffective disorder.

The primary team decided to start Arpiprazole to help treat the 
mixed features of the patient's episode. He was increased to a 
discharge dose of 15 mg daily total.  Lamotrigine was 
discontinued to minimize the number of medications necessary for 
the patient to take.  He was continued on clonazepam 1 mg po QHS 
and given hydroxyzine 25 mg po Q6H PRN anxiety. 

Patient demonstrated significant improvement in affective 
symptoms. Patient also appeared better able to engage in 
interview and with others on the unit. Patient reported that his 
mood, thoughts of self harm, and socialization had not been at 
this level in ___ years. Patient reported cessation of suicidal 
thoughts. Patient was eager to engage in the milieu. Given 
patient's complex presentation and past symptoms, he underwent 
neuropsychiatric testing, which demonstrated concrete thought 
process, depressive symptoms, and minimization of symptoms. The 
results of the neuropsychological testing were concerning for 
early onset of a primary psychotic disorder, like 
schizoaffective disorder. 

3. SUBSTANCE USE DISORDERS:
#)NONE

4. MEDICAL
#)HYPOTHYROIDISM:
On admission, Mr. ___ TSH was elevated at 8.0 and free T4 
of 1.9. The patient was restarted on his home dose of 
levothyroxine 75 mcg PO daily. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
The primary team was in contact with the providers at his 
___ to ease his transition back to the community.

#) INTERVENTIONS
- Medications: The patient was started on medications to help 
treat his mixed episode.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: The patient had appointments with 
his outpatient providers.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.  We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I 
answered the patient's questions. The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself and/or others based upon his 
hypomanic and depressive features as well as the multiple recent 
suicide attempts and self-injurious behaviors. Their static 
factors noted at that time included a history of suicide 
attempts, male gender, age, and marital status.   The modifiable 
risk factors were also addressed at that time. The patient was 
started on medications to help reduce his mood symptoms.  He was 
provided psychoeducation on his mental illness to try to improve 
his poor insight into the disorder. We worked with the patient's 
sister to try to maximize his support after discharge. Finally, 
the patient is being discharged with many protective risk 
factors, help-seeking nature, future-oriented viewpoint,  
positive therapeutic relationship with outpatient providers, and 
strong social supports.  Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is guarded due to symptom severity 
(both mood and psychotic), history of high risk suicide 
attempts, social and cognitive deficits. However, patient has 
strong family and community support, and appeared highly 
motivated to maintain his health at discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 1 mg PO BID:PRN anxiety 
2. LaMOTrigine 25 mg PO QHS 

 
Discharge Medications:
1. ClonazePAM 1 mg PO QHS 
RX *clonazepam 1 mg 1 (One) tablet(s) by mouth every night Disp 
#*14 Tablet Refills:*0
2. Prazosin 1 mg PO QHS 
RX *prazosin 1 mg 1 (One) capsule(s) by mouth every night Disp 
#*14 Capsule Refills:*0
3. ARIPiprazole 15 mg PO QHS
RX *aripiprazole 15 mg (one) tablet  by mouth every night Disp 
#*30 Tablet Refills:*0
4. Levothyroxine Sodium 75 mcg PO DAILY 
RX *levothyroxine 75 mcg 1 (One) tablet(s) by mouth every 
morning Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mood disorder NOS vs. Psychosis NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for an exacerbation of bipolar 
disorder.  We adjusted your medications, and you are now ready 
for discharge and continued treatment in partial program.

-Please follow up with all outpatient appointments as listed -
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether
prescription drugs or illegal drugs--as this can further worsen
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you
feel unsafe in any way and are unable to immediately reach your
health care providers.

*It was a pleasure to have worked with you, and we wish you the
best of health.*
 
Followup Instructions:
___